US06274737B1
(1RS, 2RS, 3SR)-1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid
To a solution of ethyl (1RS)-1-hydroxy-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate (1.03 g, 2.58 mmol) in CH2Cl2 (40 mL) was added triethylsilane (0.49 ml, 3.07 mmol), followed by boron trifluoride etherate (1.55 ml, 12.6 mmol). The reaction mixture was allowed to stir for 15 min, at which time was added slowly 3M HCl. The mixture was extracted with EtOAc. The organic extract was washed successively with H2O, 5% aqueous NaHCO3 and saturated aqueous NaCl. The solvent was removed in vacuo to provide the title compound (1.00 g, 100%) as a mixture of Δ1 and Δ2 double bond isomers.

reactant | ethyl (1RS)-1-hydroxy-1-(3,4-methylenedioxyphenyl)-3-phenylindene-2-carboxylate | 2.58 mmol, 1.03 g | OC1(C(=C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C25H20O5
reactant | triethylsilane | 3.07 mmol, 0.49 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 12.6 mmol, 1.55 ml | B(F)(F)F.CCOCC
reactant | HCl | 3M | Cl | ClH
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-(3,4-Methylenedioxyphenyl)-3-phenylindane-2-carboxylic acid | 1.00 g, 100% | C1OC=2C=C(C=CC2O1)C1C(C(C2=CC=CC=C12)C1=CC=CC=C1)C(=O)O | C23H18O4
